US08877975B2
A mixture of 1-(1-(3,4-dichlorophenyl)cyclohexyl)ethanone (247 mg, 0.91 mmol) and methyl amine (455 μL, 2.0 M in THF, 0.91 mmol) was stirred at RT for 2 min. Titanium (IV) isoproxide (336 μL, 1.14 mmol) was then added. The viscous green/yellow solution was stirred at RT for 3 h. NaBH3CN solution (640 μL, 1.0 M in MeOH, 0.64 mmol) was added and the cloudy solution was stirred at RT for 16 h. The solution was quenched with saturated NaCl solution (3 mL), filtered, and washed with MeOH (50 mL). 6M HCl (20 mL) was added and the aqueous phase was washed with Et2O (2×20 mL). The pH of the aqueous phase was adjusted to pH=12 with 3M NaOH and washed with EtOAc (3×30 mL). The combined organic phases were dried (Na2SO4), filtered and concentrated. To a solution of the crude amine in Et2O (3 mL) was added HCl (3 mL, 2.0 M in Et2O). The crude HCl salt was recrystallized from CH3CN (6 mL) at 110° c to give 1-(1-(3,4-dichlorophenyl)cyclohexyl)-N-methylethanamine (8 mg) as white crystals. HPLC Rt=8.90 min; 1H NMR (400 mHz, CD3OD) 7.57-7.53 (m, 2H), 7.33-7.31 (m, 1H), 3.15-3.13 (m, 2H), 2.61 (s, 3H), 2.45 (broad d, J=11.73 Hz, 1H), 2.30 (broad d, J=12.46, 1H), 1.59-1.51 (m, 5H), 1.31-1.08 (m, 6H); LC-MS 7.87 min, (M+1) 286 @ 8.10 min.

reactant | 1-(1-(3,4-dichlorophenyl)cyclohexyl)ethanone | 0.91 mmol, 247 mg | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(C)=O | C14H16Cl2O
reactant | methyl amine | 0.91 mmol, 2.0 M, 455 μL | CN | CH5N
reactant | NaBH3CN | 0.64 mmol, 1.0 M, 640 μL | [BH3-]C#N.[Na+]
catalyst | Titanium (IV) | [Ti+4]
product | 1-(1-(3,4-dichlorophenyl)cyclohexyl)-N-methylethanamine | 8 mg | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(C)NC | C15H21Cl2N
